US06429214B1
[7-(2-Guanidino-ethoxy)-2-oxo1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester
A suspension of [7-(2-amino-ethoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester trifluoroacetate (1.49 g, 3.8 mmol), 3,5-dimethylpyrazole carboxamidine nitrate (0.84 g, 4.18 mmol) and diisopropylethylamine (1.45 mL, 8.32 mmol) in 3:1 dioxane-water (11 mL) were heated at reflux for 22 h. The cooled solution was concentrated in vacuo to yield a viscous yellow syrup. Washing the syrup with ice-cold water (3×5 ml) gives the title compound as a dried white solid (1.04 g).

reactant | [7-(2-amino-ethoxy)-2-oxo-1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester trifluoroacetate | 3.8 mmol, 1.49 g | FC(C(=O)O)(F)F.COC(CC1C(NC2=CC(=CC=C2C1)OCCN)=O)=O
reactant | 3,5-dimethylpyrazole carboxamidine nitrate | 4.18 mmol, 0.84 g | [N+](=O)(O)[O-].CC1(N=NC(=C1)C)C(=N)N
reactant | diisopropylethylamine | 8.32 mmol, 1.45 mL | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dioxane water | 11 mL | O1CCOCC1.O
product | [7-(2-Guanidino-ethoxy)-2-oxo1,2,3,4-tetrahydro-quinolin-3-yl]-acetic acid methyl ester | 1.04 g | COC(CC1C(NC2=CC(=CC=C2C1)OCCNC(=N)N)=O)=O | C15H20N4O4
